US08003785B2
A mixture of 0.0245 g (0.035 mmole) of 4-{3-[4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoylamino]-propyl}-piperazine-1-carboxylic acid tert-butyl ester (I-94), 2.25 mL of dichloromethane and 0.25 mL of trifluoroacetic acid was stirred for 2 hours and then concentrated under reduced pressure. The residue was diluted with methanol and neutralized with 1.0 M sodium hydroxide at 0 degrees. The methanol solution was purified by reverse phase silica gel chromatography, eluting with acetonitrile-water (gradient, 1:99-90:10) to give 0.0162 g of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(3-piperazin-1-yl-propyl)-benzamide (I-95).

reactant | 4-{3-[4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoylamino]-propyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.035 mmole, 0.0245 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCNC(C1=CC(=C(C=C1)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1)OC)=O | C33H46F2N8O5
reactant | trifluoroacetic acid | 0.25 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2.25 mL | ClCCl | CH2Cl2
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(3-piperazin-1-yl-propyl)-benzamide | 0.0162 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NCCCN1CCNCC1)C=C2)OC | C28H38F2N8O3
